US07700628B2
2-[2-[2-(tert-Butoxycarbonylamino)ethoxy]-4-(methylthio)benzoylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide was prepared by methods described in Example 4-E from 2-[2-[2-(tert-butoxycarbonylamino)ethoxy]-4-(methylthio)benzoic acid and N-(5-chloropyridin-2-yl)-2-amino-5-fluorobenzamide (2.80 g, 89%).

reactant | 2-[2-(tert-butoxycarbonylamino)ethoxy]-4-(methylthio)benzoic acid | C(C)(C)(C)OC(=O)NCCOC1=C(C(=O)O)C=CC(=C1)SC | C15H21NO5S
reactant | N-(5-chloropyridin-2-yl)-2-amino-5-fluorobenzamide | 2.80 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)F)N)=O | C12H9ClFN3O
product | 2-[2-[2-(tert-Butoxycarbonylamino)ethoxy]-4-(methylthio)benzoylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide | C(C)(C)(C)OC(=O)NCCOC1=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)F)C=CC(=C1)SC | C27H28ClFN4O5S
